Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Fever

 
Major Surgical or Invasive Procedure:
Transesophageal Echocardiogram (TEE) ___

 
History of Present Illness:
Mr. ___ is a ___ year old male with a history rheumatic fever 
s/p mechanical aortic valve replacement in ___ who presents 
with a fever to 102 last night around ___. Associated symptoms 
included chills, but no myalgias. He had no localizing symptoms 
such as headache, sore throat, cough, or rhinnorhea. He denied 
chest pain or shortness of breath. He denied abdominal pain, 
diarrhea, nausea or vomiting. Of note he has a history of 
several UTI's in the past however he denied any urinary symptoms 
such as frequency, urgency, or dysuria. His most recent travel 
was to ___ ___ years ago. He had dental work 3 months ago for 
which he received SBE prophylaxis with amoxicillin. He denies 
any recent sick contacts. 

In the ED, initial vitals were 99.4 84 134/67 20 98%.  
Labs were significant for a WBC count of 12.7 with 77%PMN's but 
no bands. U/A showed small ___, negative nitrites, and few 
bacteria. CXR showed (on my read) no acute cardiopulmonary 
process.
Patient was given empiric therapy for prosthetic valve 
endocarditis with vancomycin. 
Vitals on transfer were 102.1, 86, 113/62, 22, 95% RA.  He 
received tylenol for the fever and was admitted for further 
evaluation and management. 
.  
On arrival to the floor, patient comfortable with no complaints 
other than fever.  
.  
REVIEW OF SYSTEMS  
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, cough, hemoptysis, black stools or 
red stools. He denies exertional buttock or calf pain. Of note, 
the patient reports fever and chills as stated above. All of the 
other review of systems were negative. 
.  
Cardiac review of systems is notable for absence of chest pain, 
dyspnea on exertion, paroxysmal nocturnal dyspnea, orthopnea, 
ankle edema, palpitations, syncope or presyncope.  
 
Past Medical History:
1. CARDIAC RISK FACTORS: - Diabetes, + Dyslipidemia, + 
Hypertension  
2. CARDIAC HISTORY:  
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:  none
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY:  
-Rheumatic heart disease, status post AVR ___, on Coumadin
-HTN
-Dyslipidemia
-Gout
-Colon polyps
-Hemorrhoids
-Herpes zoster
-Dysplastic nevi

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  Father had 
cancer. Mother had ? diabetes.

 
Physical Exam:
On Admission:
VS: T= 101.5 BP= 105/88 HR= 79 RR= 14 O2 sat= 94% on RA
GENERAL: WDWN in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
Good dentition. 
NECK: Supple without JVD. Negative kernig/brudzinksi. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. 
Sternotomy scars present. Resp were unlabored, no accessory 
muscle use. CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

On Discharge:
GENERAL: NAD.   
HEENT: Sclera anicteric.  Moist mucous membranes 
NECK: Supple without JVD.
CARDIAC: RRR, normal S1 with mechanical S2. No m/r/g. 
LUNGS: Resp were unlabored, no accessory muscle use. CTAB, no 
crackles, wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. 
EXTREMITIES: No lower extremity edema, no enlarged nodes   
SKIN: ___ small dark spots on soles of each foot, however do not 
appear to ___ lesions. No splinter lesions
PULSES:  
Right: Radial 2+ DP 2+ ___ 2+  
Left: Radial 2+ DP 2+ ___ 2+  
 
Pertinent Results:
On admission:

___ 12:38PM   LACTATE-1.2
___ 12:28PM   GLUCOSE-178* UREA N-18 CREAT-1.0 SODIUM-137 
POTASSIUM-4.0 CHLORIDE-98 TOTAL CO2-29 ANION GAP-14
___ 12:28PM   WBC-12.7*# RBC-5.01 HGB-16.0 HCT-43.1 MCV-86 
MCH-31.9 MCHC-37.1* RDW-13.6
___ 12:28PM   NEUTS-77.2* LYMPHS-15.6* MONOS-5.5 EOS-0.6 
BASOS-1.1
___ 12:28PM   PLT COUNT-190
___ 12:28PM   ___ PTT-30.3 ___
___ 12:28PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:28PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-300 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-SM 
___ 12:28PM URINE  RBC-1 WBC-15* BACTERIA-FEW YEAST-NONE 
EPI-<1
___ 12:28PM URINE  MUCOUS-RARE

Prior to Discharge: 
___ 06:55AM BLOOD WBC-11.2* RBC-4.67 Hgb-14.5 Hct-39.9* 
MCV-85 MCH-31.1 MCHC-36.4* RDW-13.2 Plt ___
___ 06:55AM BLOOD ___
___ 06:55AM BLOOD Glucose-150* UreaN-12 Creat-0.8 Na-138 
K-3.9 Cl-102 HCO3-27 AnGap-13
___ 10:22AM BLOOD %HbA1c-6.5* eAG-140*

___ UA negative

Microbiology:
Urine culture ___: ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
NITROFURANTOIN--------  <=16 S
TETRACYCLINE----------   <=1 S
VANCOMYCIN------------     1 S
.
Blood cultures ___: pending, no growth to date at time of 
discharge
Blood cultures ___: pending, no growth to date at time of 
discharge
Urine culture ___: pending, no growth to date at time of 
discharge
Blood cultures ___: pending, no growth to date at time of 
discharge

Other Relevant Studies:

CXR (___): PA and lateral radiographs of the chest. Lungs are 
clear without focal opacity, pleural effusion, or pneumothorax. 
The heart is normal in size with median sternotomy wires and 
valvular prosthesis noted. IMPRESSION: No acute intrathoracic 
process. 

TTE (___): The left atrium is elongated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size 
and regional/global systolic function (LVEF>55%). The aortic 
root is mildly dilated at the sinus level. The ascending aorta 
is mildly dilated. A bileaflet aortic valve prosthesis is 
present. The aortic valve prosthesis appears well seated, with 
normal disc motion and transvalvular gradients. No masses or 
vegetations are seen on the aortic valve, but cannot be fully 
excluded due to suboptimal image quality. Trace aortic 
regurgitation is seen. [The amount of regurgitation present is 
normal for this prosthetic aortic valve.] The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. No mass or vegetation is seen on the mitral valve. 
Mild (1+) mitral regurgitation is seen. The pulmonary artery 
systolic pressure could not be determined. There is no 
pericardial effusion. 
IMPRESSION: No valvular vegetations or clinically-significant 
regurgitant valvular disease seen, although transthoracic 
assessment of aortic valve prosthesis is inherently suboptimal. 
Normal global and regional biventricular systolic function. 
Normally-functioning bileaflet aortic valve prosthesis. 

TEE (___) (Preliminary Report): No spontaneous echo contrast 
or thrombus is seen in the body of the left atrium/left atrial 
appendage or the body of the right atrium/right atrial 
appendage. No atrial septal defect is seen by 2D or color 
Doppler. Overall left ventricular systolic function is normal 
(LVEF>55%). Right ventricular chamber size and free wall motion 
are normal. There are simple atheroma in the descending thoracic 
aorta. A bileaflet aortic valve prosthesis is present. The 
prosthetic aortic valve leaflets appear normal. The aortic valve 
prosthesis leaflets appear to move normally. No masses or 
vegetations are seen on the aortic valve. Trace aortic 
regurgitation is seen which is physiologic for this valve. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. No mass or vegetation is seen on the mitral 
valve. There is no pericardial effusion. 
IMPRESSION: Normally functioning bileaflet aortic valve without 
evidence of endocarditis. 

 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a history rheumatic fever 
s/p mechanical aortic valve replacement in ___ who presented 
with a leukocytosis and fever to 102, admitted to ___ for rule 
out of endocarditis and elucidation of fever source. 
.
ACTIVE ISSUES:
.
#. Fever/Leukocytosis: 
The acute development of fever and leukocytosis was likely from 
infection, however the patient had no localizing symptoms to aid 
in narrowing the differential. He may have had a viral illness 
however he had no flu-like symptoms other than fever and chills. 
His chest x-ray and lung exam were not suggestive of pneumonia. 
He had no GI symptoms, jaundice, or abdominal tenderness to 
suggest hepatitis, and LFT's were within normal limits. He had 
no meningeal signs, headache, or photophobia to suggest 
meningitis. He had no recent medication changes or rashes to 
suggest drug fever. The main concern at the time of admission 
was endocarditis, given his artificial valve,  dental work 3 
months prior, and paucity of localizing signs or symptoms to 
suggest another explanation for fever and leukocytosis. However 
blood cultures X 3 prior to antibiotics showed no growth. His 
TTE and TEE were negative for vegetation. 
The most likely explanation for this patient's fever was Acute 
Prostatitis or a viral illness. The patient did not complain of 
urinary symptoms however he has a history of UTI's in the past. 
His UA was negative for nitrites but had 15WBC's, which is 
consistent with his urine culture showing enterococcus. Cystitis 
alone is unlikely to produce fever to 102. His prostate was not 
tender on exam, however this does not rule out prostatitis. He 
had no CVA tenderness or other signs to suggest pyelonephritis. 
Therefore he was started on Ampicillin 2g IV q4h per Infectious 
Disease recommendations. He was discharged on Augmentin 
875/125mg PO BID to complete a 14 day course of antibiotics (END 
___. He will ___ with ___ clinic on ___ at 10am if he 
continues to have fever or symptoms. Should he continue to have 
fever at that point he will likely require workup for less 
common causes of fever including malignancy. 
.
#. Acute Prostatitis: As discussed above, ___ 2g IV q4h 
was given while inpatient and he was discharged on Augmentin 
875/125mg PO BID to complete a 14 day course of antibiotics. 

#. Rheumatic heart disease, s/p mechanical AVR in ___: His INR 
goal is 2.0-3.0. 
INR therapeutic today at 2.7. He was discharged on his home dose 
of Coumadin 2.5mg daily. He is scheduled to ___ with his 
cardiologist, Dr. ___ on ___. 
.
#. Hyperglycemia: fasting glucoses on AM BMPs were consistently 
elevated therefore a hemoglobin A1c was checked. HgbA1c was 6.5 
which is diagnostic of diabetes. The patient should ___ 
with his PCP for discussion of life style modification and 
potential therapeutic interventions. He is scheduled to see Dr. 
___ week. 
.
#. Hypertension: Stable, well controlled. He was continued on 
Amlodipine 10mg daily, Atenolol 25 mg daily, and Lisinopril 10 
mg daily. 
.
INACTIVE ISSUES:
.
#. Gout:  Stable during admission. The patient was not treated 
with any medication for gout.
.  
#. Hyperlipidemia: Continue home Simvastatin 20mg Daily 
.
PENDING AT THE TIME OF DISCHARGE:  Final TEE report. Blood 
cultures from ___ and urine culture ___. 
.  
TRANSITIONAL ISSUES:
.
- CODE: Confirmed Full
- EMERGENCY CONTACT: Wife ___ ___  
- Will need PCP ___ regarding HbA1c of 6.5
- Will continue on abx through ___ for acute prostatitis, and 
___ with ID if he continues to have fevers
 
Medications on Admission:
Amlodipine 10 mg Tablet daily
Atenolol 25 mg Tablet daily
Indomethacin 50 mg Capsule TID as needed for pain in foot, 
possible gout  
Lisinopril 10 mg Tablet daily
Simvastatin 20 mg Tablet at bedtime
Warfarin 2.5 mg Tablet at bedtime  
Multivitamin-minerals-lutein [Centrum Silver] daily
Psyllium Powder 1 tsp(s) BID mixed w/8oz fluid for constipation  

 
Discharge Medications:
1. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
2. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
3. warfarin 2.5 mg Tablet Sig: One (1) Tablet PO once a day.  
4. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. psyllium     Packet Sig: One (1) Packet PO BID (2 times a 
day) as needed for constipation.  
6. amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
7. indomethacin 50 mg Capsule Sig: One (1) Capsule PO three 
times a day as needed for pain from gout .  
8. Augmentin 875-125 mg Tablet Sig: One (1) Tablet PO twice a 
day for 11 days.
Disp:*22 Tablet(s)* Refills:*0*
9. simvastatin 20 mg Tablet Sig: One (1) Tablet PO at bedtime.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Acute Prostatitis

Secondary: Prosthetic Valve

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted to ___ because you had a fever of 102 
degrees without any explanation. There was concern that you 
could have an infection of your heart valve. You had a 
echocardiogram to look at your heart to look for any signs of 
infection and you did not have any. Your blood also did not show 
any signs of infection. However you did have an infection in 
your prostate called Acute Prostatitis. You were given IV 
antibiotics while in the hospital and you were discharged with a 
prescription for 11 more days of antibiotics. 

We made the following changes to your medications:
START Augmentin 875/125mg 1 tablet in the morning and 1 tablet 
at night(antibiotic for prostatitis)

Please take all of your other home medications as you were 
previously prescribed.

If you have a fever above 101 degrees, please call your primary 
care doctor, (Dr. ___ at ___. 

 
Followup Instructions:
___